US07544699B2
(2S)-{[6-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid methyl ester
To a solution of 6-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carboxylic acid (50 mg, 0.124 mmol) in dry DMF (1.25 mL) was added HBTU (1.5 eq., 0.19 mmol, 71 mg), tert-butylglycine methyl ester (1.1 eq., 0.14 mmol, 25 mg) and DIEA (3.0 eq., 0.37 mmol, 0.065 mL) according to general procedure A. Purification by chromatography on silica afforded 23 mg of the title compound.

reactant | 6-(4-tert-butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carboxylic acid | 0.124 mmol, 50 mg | C(C)(C)(C)C1=CC=C(OC=2C=C3C=C(N=C(C3=CC2)CC2CCCC2)C(=O)O)C=C1 | C26H29NO3
reactant | HBTU | 0.19 mmol, 71 mg, 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butylglycine methyl ester | 0.14 mmol, 25 mg, 1.1 eq. | COC([C@@H](N)C(C)(C)C)=O | C7H15NO2
reactant | DIEA | 0.37 mmol, 0.065 mL, 3.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.25 mL | CN(C)C=O | C3H7NO
product | (2S)-{[6-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid methyl ester | 23 mg | COC([C@H](C(C)(C)C)NC(=O)C=1N=C(C2=CC=C(C=C2C1)OC1=CC=C(C=C1)C(C)(C)C)CC1CCCC1)=O | C33H42N2O4
